US07501421B2
Preparation of 4-(6-Nitrobenzothiazol-2-yl)piperazine-1-carboxylic acid benzyl ester
A mixture of 2-chloro-6-nitrobenzothiazole (1.00 g, 4.66 mmol), benzyl 1-piperazinecarboxylate (1.03 g, 4.66 mmol), and NaHCO3 (0.783 g, 9.32 mmol) in EtOH was heated at reflux temperature for 2 h, concentrated, and extracted with EtOAc. The combined extracts were dried over Na2SO4 and concentrated in vacuo to provide the title compound (1.13 g, 61%), characterized by NMR and mass spectral analyses.

reactant | 2-chloro-6-nitrobenzothiazole | 4.66 mmol, 1.00 g | ClC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O2S
reactant | benzyl 1-piperazinecarboxylate | 4.66 mmol, 1.03 g | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | NaHCO3 | 9.32 mmol, 0.783 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 4-(6-Nitrobenzothiazol-2-yl)piperazine-1-carboxylic acid benzyl ester | 1.13 g, 61% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C19H18N4O4S
